US08138176B2
i) 5-(4-Methoxyphenyl)-5-methylmorpholin-3-one
A solution of 129.1 mmol of potassium tert-butoxide in 100 ml of tert-amyl alcohol is mixed at room temperature with 51.6 mmol of 2-chloro-N-[2-hydroxy-1-(4-methoxyphenyl)-1-methylethyl]acetamide and stirred for 3 hours. The reaction mixture is diluted with 50 ml of methanol and 3 ml of water and evaporated. The title compound is obtained as a white solid from the residue by flash chromatography (SiO2 60 F). Rf=0.10 (ethyl acetate-heptane 2:1), Rt=2.81 (gradient I).

reactant | potassium tert-butoxide | 129.1 mmol | CC(C)([O-])C.[K+]
reactant | 2-chloro-N-[2-hydroxy-1-(4-methoxyphenyl)-1-methylethyl]acetamide | 51.6 mmol | ClCC(=O)NC(CO)(C)C1=CC=C(C=C1)OC | C12H16ClNO3
solvent | tert-amyl alcohol | 100 ml | C(C)(C)(CC)O | C5H12O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 5-(4-Methoxyphenyl)-5-methylmorpholin-3-one | COC1=CC=C(C=C1)C1(COCC(N1)=O)C | C12H15NO3
